US08048887B2
5-(4-Fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid
To the above prepared methyl 5-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoate (assumed 0.211 mmol) in a mixture MeOH (2 mL)/THF (2 mL) at r.t. under N2 was added sodium hydroxide (0.84 mL, 0.84 mmol). The mixture was stirred at r.t. for 24 hours. The mixture was added with 2 ml 1N HCl, and concentrated until off white solids formed. The mixture was added with 5 ml H2O, the solids filtered and washed with 3×2 ml H2O and dried (75.1 mg). 1H NMR (500 MHz, CD3OD) δ 7.95 (m, 2H), 7.73 (s, 1H), 7.51 (d, J=8.24, 1H), 7.30-7.25 (t overlapping with m, 3H), 7.13 (s, 1H), 3.99 (s, 3H), 2.96 (s, 3H), 2.28 (s, 3H). LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=5 ml/min, Column: PHENOMENEX® Luna, 3.0×50 mm, S10; (ES+) m/z (M+H)+=452.23, HPLC Rt=1.582.

reactant | methyl 5-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoate | 0.211 mmol | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=2C(=CC(=C(C(=O)OC)C2)OC)C | C26H21F2NO5
reactant | MeOH | 2 mL | CO | CH4O
reactant | sodium hydroxide | 0.84 mmol, 0.84 mL | [OH-].[Na+]
reactant | HCl | 1N, 2 ml | Cl | ClH
solvent | H2O | 5 ml | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-(4-Fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=2C(=CC(=C(C(=O)O)C2)OC)C | C25H19F2NO5
